US06323370B1
Cinnamaldehyde (0.504 cm3, 4.0 mmol), di-propylamine (0.548 cm3, 4.0 mmol) and [Ir(COD)(dppb)][PF6] (0.070 g, 2 mol %) were treated as stated above, with 1,2-dichloroethane as solvent, and at approx. 1 bar H2 for 3 hours. The yield of product (N,N-di-n-propylcinnamylamine) obtained was 80.9%.

reactant | Cinnamaldehyde | 4.0 mmol, 0.504 cm3 | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | di-propylamine | 4.0 mmol, 0.548 cm3 | C(CC)NCCC | C6H15N
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | N,N-di-n-propylcinnamylamine | C(CC)N(CCC)CC=CC1=CC=CC=C1 | C15H23N
